US07119122B2
c) 3-(5-Methoxy-2-nitrophenylthio)benzenemethanamine hydrochloride
3-[(5-Methoxy-2-nitrophenyl)thio]benzamide (0.6 g, 1.97 mmol) in THF (25 ml) was treated with 1M borane in THF (10 ml, 9.86 mmol) at 0° C. with stirring. The clear solution was heated under reflux with stirring for 24 h under nitrogen. The reaction mixture was cooled, treated with 5N hydrochloric acid (20 ml) and stirred for 1 h. The mixture was cooled to 0° C., basified with solid potassium hydroxide and extracted with ethyl acetate. The extracts were washed with brine and dried (MgSO4). The solvent was evaporated and the residue eluted down a silica column using 5% methanol/dichloromethane as eluent to give a yellow solid (0.414 g, 72%).

reactant | 3-[(5-Methoxy-2-nitrophenyl)thio]benzamide | 1.97 mmol, 0.6 g | COC=1C=CC(=C(C1)SC=1C=C(C(=O)N)C=CC1)[N+](=O)[O-] | C14H12N2O4S
reactant | borane | 1M | B | BH3
reactant | hydrochloric acid | 5N, 20 ml | Cl | ClH
reactant | potassium hydroxide | [OH-].[K+]
solvent | THF | 25 ml | C1CCOC1 | C4H8O
solvent | THF | 9.86 mmol, 10 ml | C1CCOC1 | C4H8O
product | 3-(5-Methoxy-2-nitrophenylthio)benzenemethanamine hydrochloride | 0.414 g, 72% | Cl.COC=1C=CC(=C(C1)SC=1C=C(C=CC1)CN)[N+](=O)[O-] | InChI=1S/C14H14N2O3S.ClH/c1-19-11-5-6-13(16(17)18)14(8-11)20-12-4-2-3-10(7-12)9-15;/h2-8H,9,15H2,1H3;1H
